US05962479
(6-Chloro-2-methyl-5-nitro-pyrimidin-4-yl)-(2,4,6-trimethyl-pyridin-3-yl)-amine
A solution of 2-methyl-5-nitro-4,6-dichloro-pyrimidine (208 mg, 1.00 mmol) in 2.5 ml of acetonitrile was treated with 2,4,6-trimethyl-3-amino-pyridine (273 mg, 2 mmol) stirred at room temperature 2 hours. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was washed with brine, dried and concentrated to give red residue. The residue was purified through silica gel column chromatography using chloroform to 6% methanol in chloroform as eluent to give the title compound (110 mg, 36%) as an orange oil. 1H NMR (CDCl3) δ8.78 (brs, 1H), 6.97 (s, 1H), 2.54 (s, 3H), 2.43 (s, 3H), 2.40 (s, 3H), 2.17 (s, 3H) ppm.

reactant | 2-methyl-5-nitro-4,6-dichloro-pyrimidine | 1.00 mmol, 208 mg | CC1=NC(=C(C(=N1)Cl)[N+](=O)[O-])Cl | C5H3Cl2N3O2
reactant | 2,4,6-trimethyl-3-amino-pyridine | 2 mmol, 273 mg | CC1=NC(=CC(=C1N)C)C | C8H12N2
solvent | acetonitrile | 2.5 ml | C(C)#N | C2H3N
product | (6-Chloro-2-methyl-5-nitro-pyrimidin-4-yl)-(2,4,6-trimethyl-pyridin-3-yl)-amine | 110 mg, 36% | ClC1=C(C(=NC(=N1)C)NC=1C(=NC(=CC1C)C)C)[N+](=O)[O-] | C13H14ClN5O2
